US07842367B2
Disperse Orange 3 Methacrylamide Synthesis
0.6 g of sodium hydride was added carefully to a 3 neck flask equipped with a condenser, addition funnel, and magnetic bar. 75 ml of anhydrous THF was added and the mixture stirred for 10 minutes. A solution of 4.0 g 4-(4-nitrophenylazo)aniline in 75 ml THF was added drop-wise and the flask stirred at 50° C. The temperature was raised to 95° C., and the mixture was refluxed for 6 hrs. The mixture was allowed to cool to room temperature and then 6.0 g of methacrylic acid in 20 ml THF was added drop-wise. The mixture was again refluxed for 8 hrs. The solution was cooled to room temperature. THF was evaporated to reveal a dark orange solid. The solid was washed thoroughly with dilute HCl and water. The product was recrystallized in 95% methanol. The yield was 56%.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 4-(4-nitrophenylazo)aniline | 4.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(N)C=C1 | C12H10N4O2
reactant | methacrylic acid | 6.0 g | C(C(=C)C)(=O)O | C4H6O2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | Disperse Orange 3 Methacrylamide | yield was 56% | CC(=C)C(=O)NC1=CC=C(C=C1)N=NC2=CC=C(C=C2)[N+](=O)[O-] | C16H14N4O3
